US04672111
acidifying said 5-amino-2'-deoxyuridine-5'-monophosphate and reacting the acidified product with sodium nitrite to produce 5-diazo-2'-deoxyuridine-5'-monophosphate;

reactant | 5-amino-2'-deoxyuridine-5'-monophosphate | P(=O)(O)(O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)N)O | C9H14N3O8P
reactant | sodium nitrite | N(=O)[O-].[Na+]
product | 5-diazo-2'-deoxyuridine-5'-monophosphate | P(=O)(O)(O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C1)=[N+]=[N-])O | C9H13N4O8P
